US06159989
(S)-1-(7-aza-bicyclo[2.2.1]hept-7-yl)-2-{2-(3,5-dimethylphenyl)3-[2-(4-hydroxypiperidin-1-yl)-1-methylethyl]-1H-indol-5-yl)2-methylpropan-1-one
To a solution of (S)-1-{2-[5-[2-(7-aza-bicyclo[2.2.1]hept-7-yl)-1,1-dimethyl-2-oxo-ethyl]-2-(3,5-dimethylphenyl)-1H-indol-3-yl]-propyl}-piperidin-4-one (15 mg in 0.10 mL dry methanol) at 0° C. was added a solution of sodium borohydride (1 mg in 0.15 mL methanol) and the mixture stirred at low temperature. After 4 hours, the solvent was removed in vacuo and the residue purified by flash chromatography on silica gel (methylene chloride:methanol, 9:1) to give the title compound (14 mg).

reactant | (S)-1-{2-[5-[2-(7-aza-bicyclo[2.2.1]hept-7-yl)-1,1-dimethyl-2-oxo-ethyl]-2-(3,5-dimethylphenyl)-1H-indol-3-yl]-propyl}-piperidin-4-one | 0.10 mL, 15 mg | C12CCC(CC1)N2C(C(C)(C)C=2C=C1C(=C(NC1=CC2)C2=CC(=CC(=C2)C)C)[C@@H](CN2CCC(CC2)=O)C)=O | C34H43N3O2
reactant | sodium borohydride | 0.15 mL, 1 mg | [BH4-].[Na+]
product | (S)-1-(7-aza-bicyclo[2.2.1]hept-7-yl)-2-{2-(3,5-dimethylphenyl)3-[2-(4-hydroxypiperidin-1-yl)-1-methylethyl]-1H-indol-5-yl)2-methylpropan-1-one | 14 mg | C12CCC(CC1)N2C(C(C)(C)C=2C=C1C(=C(NC1=CC2)C2=CC(=CC(=C2)C)C)[C@@H](CN2CCC(CC2)O)C)=O | C34H45N3O2
